US07179943B2
N-[3-(trifluoromethyl)phenyl]-2,4-dioxobicyclo[3.2.1]octane-3-carboxamide
A solution of bicyclo[3,2,1]octane-2,4-dione (0.27 g, 2.0 mmole), 3-(trifluoromethyl) phenyl isocyanate (0.55 ml, 4.0 mmole), and 60% sodium hydride in mineral oil (0.088 g, 2.2 mmole) in dimethylformamide (100 mL) was stirred at 0° C. for 1 hour and then heated at 45–50° C. under nitrogen for 24 hours. After cooling, the mixture was diluted with H2O and treated with 2N aqueous HCl until the mixture was clear. The clear solution was then extracted with dichloromethane. The organic layer was washed with H2O again, dried over anhydrous magnesium sulfate, and concentrated on a rotary evaporator. The residue was purified with by chromatography on silica gel (40% dichloromethane/hexane) to give a clear oily liquid as the expected product. The oily product was crystallized with ethyl acetate/hexane in a dry ice bath to afford the title compound as a white solid, mp=68–69° C.; MS (−) ESI m/z=324 (M−H)−.

reactant | bicyclo[3,2,1]octane-2,4-dione | 2.0 mmole, 0.27 g | C12C(CC(C(CC1)C2)=O)=O | C8H10O2
reactant | 3-(trifluoromethyl) phenyl isocyanate | 4.0 mmole, 0.55 ml | FC(C=1C=C(C=CC1)N=C=O)(F)F | C8H4F3NO
reactant | sodium hydride | [H-].[Na+]
reactant | HCl | 2N | Cl | ClH
solvent | dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
solvent | H2O | O | H2O
product | N-[3-(trifluoromethyl)phenyl]-2,4-dioxobicyclo[3.2.1]octane-3-carboxamide | FC(C=1C=C(C=CC1)NC(=O)C1C(C2CCC(C1=O)C2)=O)(F)F | C16H14F3NO3
